US07361677B2
4-{[3-(4-Benzyloxy-phenylsulfanyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB02038)
Sodium hydride (60%, 200 mg, 5.0 mmol) was added to a solution of 4-([1,2,4]triazol-4-ylamino)-benzonitrile (926 mg, 5.0 mmol) in DMF (10 mL) at 0° C. The mixture was stirred for 30 min at 50° C., cooled to room temperature and 1-bromo-3-(4-benzyloxy-phenylsulfanyl)-propane (CAB02037, 1.686 g, 5.0 mmol) was added. The reaction mixture was stirred for 15 h and ethyl acetate (100 mL) was added. The mixture was transferred into a separation funnel and extracted with water (2×50 mL) and brine (20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column-chromatography (eluent: ethyl acetate, Rf: 0.41). Yield: 1.724 g (78%) colourless oil. The oil was crystallised from a small amount of methanol. Yield: 1.517 g (68%). 1H-NMR (400 MHz, CDCl3) δ=1.84 (tt, J=6.4, 6.4 Hz, 2H), 2.90 (t, J=6.4 Hz, 2H), 3.90 (t, J=6.4 Hz, 2H), 5.06 (s, 2H, —OCH2Ph), 6.52 (d, J=9.0 Hz, 2H), 6.93 (d, J=9.0 Hz, 2H), 7.31 (d, J=9.0 Hz, 2H), 7.33-7.44 (m, 5H), 7.52 (d, J=9.0 Hz, 2H), 8.26 (s, 2H). LRMS (FAB+): 442.2 (100, [M+H]+)

reactant | Sodium hydride | 5.0 mmol, 200 mg | [H-].[Na+]
reactant | 4-([1,2,4]triazol-4-ylamino)-benzonitrile | 5.0 mmol, 926 mg | N=1N=CN(C1)NC1=CC=C(C#N)C=C1 | C9H7N5
reactant | 1-bromo-3-(4-benzyloxy-phenylsulfanyl)-propane | 5.0 mmol, 1.686 g | BrCCCSC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H17BrOS
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-{[3-(4-Benzyloxy-phenylsulfanyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | C(C1=CC=CC=C1)OC1=CC=C(C=C1)SCCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C25H23N5OS
